US09102637B2
(c) 5-(4-acetamidobenzamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide
To a mixture of 4-acetamidobenzoic acid (0.204 g, 1.14 mmol) and a catalytic amount of DMF in dry THF (15 mL) was added dropwise oxalyl chloride (0.2 mL, 2.30 mmol) at 0° C., and the mixture was stirred for 2 hrs at rt. The solvent was evaporated, and the residual oxalyl chloride was removed with azeotropic distillation using toluene under nitrogen atmosphere 4 times. The resulting acid chloride was then dissolved in pyridine (6 mL) and cooled to 0° C. To this solution, a solution of 5-amino-2-(naphthalene-2-ylamino)thiazole-4-carboxamide (0.27 g, 0.95 mmol) in pyridine (6 mL) was added at 0° C., and the mixture was stirred for 12 hrs at rt. The solvent was evaporated, and the residue was suspended into 1M HCl, and the resulting solids were collected and dried. The crude solids were purified by silica gel column chromatography eluted with 3% MeOH in DCM to give 16 mg (3.7% yield) of the titled compound.

reactant | 4-acetamidobenzoic acid | 1.14 mmol, 0.204 g | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2.30 mmol, 0.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-amino-2-(naphthalene-2-ylamino)thiazole-4-carboxamide | 0.95 mmol, 0.27 g | NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C14H12N4OS
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | 5-(4-acetamidobenzamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 16 mg, 3.7% yield | C(C)(=O)NC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC3=CC=CC=C3C=C2)C(=O)N)C=C1 | C23H19N5O3S
